US07381719B2
Add potassium bis(trimethylsilyl)amide (39.90 g, 200 mmol) to a stirred solution of 4-fluoroanisole (15.0 mL, 133 mmol), isobutyronitrile (49.0 mL, 539 mmol) and anhydrous tetrahydrofuran (150 mL). Heat the reaction to reflux under nitrogen for 72 h. Cool the reaction to room temperature, pour it into 1 N hydrochloric acid (300 mL), and extract with diethyl ether (3×100 mL). Wash the diethyl ether extracts with brine (100 mL), dry the extracts over magnesium sulfate, filter, and concentrate on a rotary evaporator to give the crude product. The crude product is purified by flash chromatography on silica gel eluting with 10% ethyl acetate/hexanes to yield 12.13 g (52%) of 2-(4-methoxy-phenyl)-2-methyl-propionitrile: TLC: Rf in 10% ethyl acetate/hexanes: 0.30; 1H NMR (CDCl3): 7.40-7.37 (m, 2H), 6.92-6.90 (m, 2H), 3.81 (s, 3H), 1.70 (s, 6H).

reactant | potassium bis(trimethylsilyl)amide | 200 mmol, 39.90 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-fluoroanisole | 133 mmol, 15.0 mL | FC1=CC=C(C=C1)OC | C7H7FO
reactant | isobutyronitrile | 539 mmol, 49.0 mL | C(C(C)C)#N | C4H7N
reactant | hydrochloric acid | 1 N, 300 mL | Cl | ClH
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 2-(4-methoxy-phenyl)-2-methyl-propionitrile | 12.13 g, 52% | COC1=CC=C(C=C1)C(C#N)(C)C | C11H13NO
